US20010005757A1
8α,9α-Epoxycholest-5-en-3βol (200mg) is dissolved in dichloromethane and the solution is cooled to 0° C. 1.5 ml of a diethylaluminumcyanide-solution (1 M in toluene) is added dropwise. After addition, the reaction mixture is warmed to room temperature and stirred for additional 18 hours. After basic work-up and column chromatography, cholesta-5,8,14-triene-3βol (51 mg) is isolated.

reactant | 8α,9α-Epoxycholest-5-en-3βol | 200mg | O1[C@]23[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@]31[C@]3(CC[C@@H](CC3=CC2)O)C)C | C27H44O2
reactant | diethylaluminumcyanide | 1 M, 1.5 ml | [C-]#N.C(C)[Al+]CC
solvent | dichloromethane | ClCCl | CH2Cl2
product | cholesta-5,8,14-triene-3βol | 51 mg | CC(C)CCC[C@@H](C)[C@H]1CC=C2C=3CC=C4C[C@H](CC[C@]4(C)C3CC[C@]12C)O | C27H42O
